US06057264
To 2,2-dimethyl-N-n-heptylindoline (12.5 g) in dimethylformamide (100 cm3) phosphorus oxychloride (15.3 g) was added at 5° C. before heating the mixture at 80° C. for 2-5 hours. The reaction mixture was cooled, poured onto ice, neutralised with solid sodium carbonate and extracted into toluene. The toluene was washed with water, separated, dried over magnesium sulphate, filtered and evaporated to leave an oil. The oil was eluted from silica using dichloromethane as eluent, evaporation of the solvent gave 2,2-dimethyl-5-formyl-N-n-heptylindoline (4.9 g, 36.1%).

reactant | 2,2-dimethyl-N-n-heptylindoline | 12.5 g | CC1(N(C2=CC=CC=C2C1)CCCCCCC)C | C17H27N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 100 cm3, 15.3 g | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-5-formyl-N-n-heptylindoline | 4.9 g, 36.1% | CC1(N(C2=CC=C(C=C2C1)C=O)CCCCCCC)C | C18H27NO
